data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cc(C)ccc1Cl)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(C)ccc1Cl)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(C)ccc1Cl)C(C)C", "products": "Cc1ccc(Cl)c([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1"}, {"reactants": "Cc1ccc(Cl)c([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1", "products": "Cc1ccc(Cl)c([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1"}, {"reactants": "Cc1ccc(Cl)c([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "Cc1ccc(Cl)c([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1"}, {"reactants": "Cc1ccc(Cl)c([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1", "products": "Cc1ccc(Cl)c([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)c1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "CC(C)c1ccccc1C(=O)C1C2CCC1C2", "products": "CC(C)c1ccccc1[C]([O])C1C2CCC1C2"}, {"reactants": "CC(C)c1ccccc1[C]([O])C1C2CCC1C2", "products": "CC(C)c1ccccc1C([O])=CC1C[CH]CC1"}, {"reactants": "CC(C)c1ccccc1C([O])=CC1C[CH]CC1", "products": "CC(C)c1ccccc1C(O)=CC1C=CCC1"}, {"reactants": "CC(C)c1ccccc1C(O)=CC1C=CCC1", "products": "CC(C)c1ccccc1C(=O)CC1C=CCC1"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cc(C)cc(C)c1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(C)cc(C)c1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(C)cc(C)c1)C(C)C", "products": "Cc1cc(C)cc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1"}, {"reactants": "Cc1cc(C)cc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1", "products": "Cc1cc(C)cc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1"}, {"reactants": "Cc1cc(C)cc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "Cc1cc(C)cc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1"}, {"reactants": "Cc1cc(C)cc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1", "products": "Cc1cc(C)cc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)c1.[Rh]"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)COC)c([Si](C)(C)C)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)COC)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)COC)c([Si](C)(C)C)cc1=C", "products": "COC[Si](C)(C)c1cc2c(cc1[Si](C)(C)C)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1ccccc1C1(O)C(=O)CC2CCC1(C)C2(C)C.[H+]", "products": "COc1ccccc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C"}, {"reactants": "COc1ccccc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C", "products": "COc1ccccc1[C+]1C(=O)CC2CCC1(C)C2(C)C.O"}, {"reactants": "COc1ccccc1[C+]1C(=O)CC2CCC1(C)C2(C)C", "products": "COc1ccccc1C12CCC(CC1=O)C(C)(C)[C+]2C"}, {"reactants": "COc1ccccc1C12CCC(CC1=O)C(C)(C)[C+]2C", "products": "COc1ccccc1C1=C(C)C(C)(C)C(C#[O+])CC1"}, {"reactants": "COc1ccccc1C1=C(C)C(C)(C)C(C#[O+])CC1.O", "products": "COc1ccccc1C1=C(C)C(C)(C)C(C(=O)[OH2+])CC1"}, {"reactants": "COc1ccccc1C1=C(C)C(C)(C)C(C(=O)[OH2+])CC1", "products": "COc1ccccc1C1CCC(C(=O)O)C(C)(C)[C+]1C"}, {"reactants": "COc1ccccc1C1CCC(C(=O)O)C(C)(C)[C+]1C", "products": "COc1ccccc1C1CCC2C(=O)[OH+]C1(C)C2(C)C"}, {"reactants": "COc1ccccc1C1CCC2C(=O)[OH+]C1(C)C2(C)C", "products": "COc1ccccc1C1CCC2C(=O)OC1(C)C2(C)C.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CN(C(=O)C1=CCCC1)c1c(F)cc(Cl)cc1Br.[Pd]", "products": "CN(C(=O)C1=CCCC1)c1c(F)cc(Cl)c[c]1[Pd][Br]"}, {"reactants": "CN(C(=O)C1=CCCC1)c1c(F)cc(Cl)c[c]1[Pd][Br]", "products": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2c(F)cc(Cl)cc21"}, {"reactants": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2c(F)cc(Cl)cc21", "products": "CN1C(=O)C2(C=CCC2)c2c(F)cc(Cl)cc21.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(Cl)CC1C.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(Cl)CC1C.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(Cl)CC1C", "products": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)C(Cl)CC2C.[Rh]"}, {"reactants": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)C(Cl)CC2C", "products": "CCC12C(=O)C3(C(=O)OC)OC14N(C(=O)CC41c4ccccc4N(C)C31)C(Cl)CC2C"}]}
